US07989438B2
Step 3: (2-(methoxymethoxy)-4-{[(4-methylphenyl)sulfonyl]oxy}phenyl)boronic acid
To a solution (0.30 M) of 4-bromo-3-(methoxymethoxy)phenyl 4-methylbenzenesulfonate in a mixture (1:3) of THF/toluene, triisopropyl borate was added and then the mixture cooled to −78° C. To the cold solution, n-BuLi (2.5 M in hexane; 1.5 eq) was added via syringe pump over 1.5 h. The mixture was stirred at −78° C. for a further 2 h and then left to warm to RT overnight. The mixture was diluted with EtOAc and washed with 1 N HCl, extracting the aqueous fraction a further two times with EtOAc. The combined organics were washed with sat. aq. NaHCO3 and brine, dried (Na2SO4), filtered and concentrated in vacuo to afford the product, that could be used directly as crude or purified by FC (PE/EtOAc 9/1) to afford the title compound (43%). 1H NMR (400 MHz, DMSO-d6, 300 K) δ 2.42 (s, 3H), 3.31 (s, 3H), 5.06 (s, 2H), 6.64-6.69 (m, 2H), 7.44-7.49 (m, 3H), 7.74 (d, J 8.3, 2H); (ES+) m/z 353 (M+H)+.

reactant | 4-bromo-3-(methoxymethoxy)phenyl 4-methylbenzenesulfonate | 0.30 M | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC(=C(C=C1)Br)OCOC | C15H15BrO5S
reactant | THF toluene | C1CCOC1.C1(=CC=CC=C1)C
reactant | triisopropyl borate | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-BuLi | 2.5 M, 1.5 eq | [Li]CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-(methoxymethoxy)-4-{[(4-methylphenyl)sulfonyl]oxy}phenyl)boronic acid | 43% | COCOC1=C(C=CC(=C1)OS(=O)(=O)C1=CC=C(C=C1)C)B(O)O | C15H17BO7S
